US04571345
2,4-Dimethyl-3-pentanol (29 g, 0.25 mole), dissolved in formic acid (98%, 46 g, 1 mole), was added dropwise over one hour to a rapidly-stirred, ice-cooled mixture of formic acid (98%, 3 ml) and concentrated sulfuric acid (270 ml). During the addition the reaction mixture foamed vigorously and was stirred for a further one hour at 10°-20° C. The mixture was poured on to ice (1 kg) and the resulting solution extracted with hexanes (3×200 ml). The combined organic phases were extracted with 2N potassium hydroxide (2×200 ml) plus ice (50 g) and the aqueous extracts washed with hexanes (100 ml). The aqueous phase was then acidified (pH 2) and the product extracted into hexanes (3×200 ml). After washing with saturated sodium chloride and drying (MgSO4), the solution was evaporated under reduced pressure and the residue distilled to give 2,2,4-trimethylpentanoic acid (36 g).

reactant | 2,4-Dimethyl-3-pentanol | 0.25 mole, 29 g | CC(C)C(C(C)C)O | C7H16O
reactant | sulfuric acid | 270 ml | S(O)(O)(=O)=O | H2O4S
reactant | formic acid | 3 ml | C(=O)O | CH2O2
reactant | formic acid | 1 mole, 46 g | C(=O)O | CH2O2
product | 2,2,4-trimethylpentanoic acid | 36 g | CC(C(=O)O)(CC(C)C)C | C8H16O2
